Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
ciprofloxacin / fluconazole
 
Attending: ___.
 
Chief Complaint:
dehydration, abdominal pain, and tachycardia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ is a ___ with ETOH hepatitis and pancreatitis on
___ with a prolonged hospitalization at ___ c/b PNA, sepsis, respiratory failure, and pancreatic
pseudocyst, s/p endoscopic cystogastrostomy ___ and ___
drainage of R flank collection ___ c/b infection of
pseudocyst ___ fungemia, & severe necrotizing
pancreatitis s/p laparoscopic drainage and debridement ___. 
She was most recently readmitted to ___ on ___ for
increased WBCs and malaise, and a work up was notable for blood
cultures from her PICC which grew viridans strep, 
coag-neg staph, and micrococcus grew and clostridium difficile 
PCR test at the same time was positive.  She was treated with
Vancomycin and transitioned to Linezolid and started on
Micafungin per ID recomendations.  She was ultimately discharged
to a rehab on ___ in stable condition.  

Since discharge, the patient has been doing well, went from 
rehab
to home two weeks prior to presenting and has been tolerating a
regular diet.  One week prior to presentation, however, she
noticed a sharp burning pain at the site of her RLQ drain that
she reported was ___ in severity and has persisted.  She also
noted that during this time, her RLQ drain, which had been
working its way out over the past few weeks, had withdrawn back
into her wound.  Over the past few days, her RLQ pain has
persisted and radiates across her epigastrum and along her back
and increases to ___ in severity.  Given the persistent
abdominal and back pain, she presented to clinic today for
evaluation.  In addition to pain, she endorses poor po intake,
dark urine, and feeling dehdraded.  She denies emesis or fevers
during this time,  but does endorse having some nausea and night
sweats.  She also reports feeling depressed and is upset that 
she
continues to return to the hospital.

 
Past Medical History:
Per ___ and ___ discharge summary ___.
Hypertension.
Hypercholesterolemia.
Diabetes ___ pancreatitis.
Metabolic toxic encephalopathy
Depression.
Diverticulitis s/p sigmoid resection and end colostomy unable to 
be reversed b/c severe scarring and fibrosis.
Anemia of chronic disease.
Breast Ca s/p bl mastectomy and chemotherapy ___ years ago.
ETOH abuse.
Bowel obstruction.
Pancreatic pseudocyst.
s/p appendectomy for ruptured appendix.
s/p laparoscopy - pelvic pain r/o endomitriosis

 
Social History:
___
Family History:
Cancer
 
Physical Exam:
 
Pertinent Results:
___ 09:15PM URINE  HOURS-RANDOM
___ 09:15PM URINE  UCG-NEGATIVE
___ 09:15PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD
___ 09:15PM URINE  RBC-4* WBC-14* BACTERIA-FEW YEAST-NONE 
EPI-4 TRANS EPI-<1
___ 09:15PM URINE  MUCOUS-RARE
___ 06:36PM   LACTATE-1.1
___ 06:30PM   GLUCOSE-78 UREA N-13 CREAT-0.5 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-26 ANION GAP-15
___ 06:30PM   estGFR-Using this
___ 06:30PM   ALT(SGPT)-12 AST(SGOT)-14 ALK PHOS-116* TOT 
BILI-0.2
___ 06:30PM   LIPASE-14
___ 06:30PM   ALBUMIN-4.2 CALCIUM-9.8 PHOSPHATE-3.3 
MAGNESIUM-1.8
___ 06:30PM   WBC-14.6*# RBC-4.97# HGB-13.7# HCT-42.3# 
MCV-85 MCH-27.6 MCHC-32.3 RDW-14.2
___ 06:30PM   NEUTS-81.4* LYMPHS-11.5* MONOS-4.3 EOS-2.2 
BASOS-0.5
___ 06:30PM   PLT COUNT-285
___ 06:30PM   ___ PTT-31.8 ___
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ from clinic where she had presented with left abdominal 
pain and tachycardia. Her drain had been removed in clinic and 
silver nitrate was applied due to some bloody drainage at the 
site. On admission, she was made NPO, put on IV pain medication, 
and received IV fluid hydration. CT scan of her abdomen showed 
an interval decrease in size of a prior peripancreatic fluid 
collection with question of superinfection of the collection. CT 
also showed question of a new splenic infarct, a high density in 
the subcutaneous tissue of the right posterolateral drain tract 
(which was correlated with the application of silver nitrate at 
that site), and a destructive appearing right iliac lucency 
concerning for a metastatic focus (given history of breast 
cancer). Infectious work up was done that was unremarkable - 
chest x-ray showed mild atelectasis and urinalaysis was 
negative. Her labs were also within normal limits with no 
leukocytosis. 
 
On HD2, the patient showed improvement in her abdominal pain and 
was advanced to a regular diet, which she tolerated well with no 
nausea and vomiting. Her home medications were restarted, and 
she was transitioned to PO pain control. Her wound remained 
covered, and her ostomy was viable. 
 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. We discussed with her the CT finding of possible 
metastatic disease for which she was follow up with oncology. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO TID 
2. Duloxetine 60 mg PO DAILY 
3. Gemfibrozil 600 mg PO BID 
4. Pancrelipase 5000 3 CAP PO TID W/MEALS 
5. Lorazepam 1 mg PO Q8H:PRN anxiety 
6. Pantoprazole 40 mg PO Q24H 
7. Pregabalin 50 mg PO TID 
8. Tamoxifen Citrate 20 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
10. Senna 1 TAB PO BID:PRN constipation 
11. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
2. Duloxetine 60 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. Gemfibrozil 600 mg PO BID 
5. Lorazepam 1 mg PO Q8H:PRN anxiety 
6. Multivitamins 1 TAB PO DAILY 
7. Pancrelipase 5000 3 CAP PO TID W/MEALS 
8. Pantoprazole 40 mg PO Q24H 
9. Senna 1 TAB PO BID:PRN constipation 
10. Tamoxifen Citrate 20 mg PO DAILY 
11. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 4 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0
12. Pregabalin 50 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
.
General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.

*Please change your dressing to your right abdomen wound daily 
and as needed with dry gauze
 
Followup Instructions:
___